US04912102
To a solution of 2.0 g (0.0047 mol) of (-)-cis-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)-5-[2-(dimethylamino)ethyl]naphtho[ 1,2-b][1,4]thiazepin-4(5H)-one in 25 ml of dry pyridine was added dropwise 1.6 g (0.0082 mol) of 3,4-dimethoxybenzoyl chloride at ice-bath temperature. After the addition, the reaction mixture was kept at ice-bath temperatures for 17 hours and then concentrated under reduced pressure. The residue was partitioned between ethyl acetate and cold 10% potassium carbonate. The combined ethyl acetate solutions were washed with brine, dried (MgSO4) and the solvent was removed to give 3.3 g of crude product, which was dissolved in methylene chloride and chromatographed using 45 g of silica gel. The comumn was eluted with 50 ml portions of methylene chloride-acetone (80:20). Fractions 21-50 were collected and the solvent was removed to give 2.5 g (92%) of (-)-cis-2,3-dihydro-3-[(3,4-dimethoxybenzoyl)oxy]-2-(4-methoxyphenyl)-5-[2-(dimethylamino)ethyl]naphtho[1,2-b][1,4]thiazepin-4(5H)-one as an amorphous solid, [α]D25 + 47.39° (C 0.928, MeOH).

reactant | (-)-cis-2,3-dihydro-3-hydroxy-2-(4-methoxyphenyl)-5-[2-(dimethylamino)ethyl]naphtho[ 1,2-b][1,4]thiazepin-4(5H)-one | 0.0047 mol, 2.0 g | O[C@H]1C(N(C2=C(S[C@H]1C1=CC=C(C=C1)OC)C1=CC=CC=C1C=C2)CCN(C)C)=O | C24H26N2O3S
reactant | 3,4-dimethoxybenzoyl chloride | 0.0082 mol, 1.6 g | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
solvent | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (-)-cis-2,3-dihydro-3-[(3,4-dimethoxybenzoyl)oxy]-2-(4-methoxyphenyl)-5-[2-(dimethylamino)ethyl]naphtho[1,2-b][1,4]thiazepin-4(5H)-one | 2.5 g, 92% | COC=1C=C(C(=O)O[C@H]2C(N(C3=C(S[C@H]2C2=CC=C(C=C2)OC)C2=CC=CC=C2C=C3)CCN(C)C)=O)C=CC1OC | C33H34N2O6S
